* C:\Users\eugene.dann\Documents\Development\circuit_development\circuit_sims\AM Circuits\Base Injected\Test AM curcuit\BaseInjectedAM.asc
V1 VCC 0 9
Q1 N001 N003 N004 0 2N2222
R1 VCC N003 47k
R2 N005 0 5k
C1 N005 AF 0.1µ
C2 0 N005 2µ
C3 N001 VCC 250n
C4 0 N004 10µ
R3 0 N004 470
R4 0 N009 50
L1 0 Carrier 200µ
L2 N005 N003 20µ
L3 N001 VCC 100n
L4 0 AM 100n
V2 Carrier N002 SINE(0 1 1Meg)
V3 N007 0 SINE(0 0.3 1500)
R5 AF N007 {afr}
R6 AF N008 {afr}
V4 N008 0 SINE(0 0.1 2000)
R7 N002 0 1k
L5 N009 AM_IN 150n
L6 0 N006 100n
C5 N006 0 250n
D1 N006 output 1N5817
R8 output 0 100
C6 output 0 1µ
R9 0 AM 50
B1 AM_IN 0 V=V(AM)
.model D D
.lib C:\Users\eugene.dann\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\eugene.dann\AppData\Local\LTspice\lib\cmp\standard.bjt
K1 L1 L2 1
K2 L3 L4 1
K3 L5 L6 1
.TRAN 1u 8m 3m
.param afr 1.5k
.backanno
.end
